US05155113
Preparation of 1-ethylcarbamoyl-4-hydroxy-2-pyridone
A 2.50 ml quantity of ethyl isocyanate was added to a suspension of 3.00 g of 4-hydroxy-2-pyridone in 20 ml of pyridine, and the mixture was stirred at room temperature for one hour. The solvent was distilled off and the residue was dissolved in 50 ml of ethyl acetate. The solution was washed twice with 30 ml of water. The ethyl acetate layer was dried on anhydrous sodium sulfate and concentrated. The concentrate was recrystallized from ethanol-ether, thereby producing 1.48 g of the title compound in a yield of 30.1%.

reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
reactant | 4-hydroxy-2-pyridone | 3.00 g | OC1=CC(NC=C1)=O | C5H5NO2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1-ethylcarbamoyl-4-hydroxy-2-pyridone | 1.48 g, yield of 30.1% | C(C)NC(=O)N1C(C=C(C=C1)O)=O | C8H10N2O3
